US04307098
In like manner, 5-cyano-1-(2,4-difluorophenyl)uracil is prepared, starting with 2,4-difluoroaniline, and is then reacted with trichloromethanesulphenyl chloride, giving 5-cyano-1-(2,4-difluorophenyl)-3-trichloromethanesulphenyluracil, m.p. 196°-198°.

reactant | 5-cyano-1-(2,4-difluorophenyl)uracil | C(#N)C=1C(NC(N(C1)C1=C(C=C(C=C1)F)F)=O)=O | C11H5F2N3O2
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | trichloromethanesulphenyl chloride | ClC(SCl)(Cl)Cl | CCl4S
product | 5-cyano-1-(2,4-difluorophenyl)-3-trichloromethanesulphenyluracil | C(#N)C=1C(N(C(N(C1)C1=C(C=C(C=C1)F)F)=O)SC(Cl)(Cl)Cl)=O | C12H4Cl3F2N3O2S
